US08426447B2
To a solution of (S)-4-(2′-amino-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-3-yl)-2-methylbut-3-yn-2-ol (58 mg, 0.140 mmol) in MeOH (1703 μL, 42.1 mmol) was added methane sulfonic acid (91 μL, 1.403 mmol) in a vial. The vial was sealed and placed in a 70° C. oil bath for 3 hours. The mixture was poured into saturated aqueous sodium bicarbonate solution (20 mL) and extracted with DCM (3×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 25-g SNAP column, eluting with 0-70% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM to give (S)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid after evaporation from DCM/hexane.

reactant | (S)-4-(2′-amino-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-3-yl)-2-methylbut-3-yn-2-ol | 0.140 mmol, 58 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(O)C)C=1C=NC=NC1 | C23H19N5O3
reactant | MeOH | 42.1 mmol, 1703 μL | CO | CH4O
reactant | methane sulfonic acid | 1.403 mmol, 91 μL | CS(=O)(=O)O | CH4O3S
solvent | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
product | (S)-3-(3-methoxy-3-methylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | COC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1)(C)C | C24H21N5O3
